US04024164
2-Benzoyloxyethyl palmitate
2-Benzoyloxyethyl palmitate was prepared by the procedure of Example 1 from 16 grams (0.1 mole) of ethylene glycol monobenzoate and 26 gms (0.1 mole) of palmitoyl chloride. The structure of the final product was characterized on the basis of NMR and IR spectral analyses as described in Example 1.

reactant | ethylene glycol monobenzoate | 0.1 mole, 16 grams | C(C1=CC=CC=C1)(=O)OCCO | C9H10O3
reactant | palmitoyl chloride | 0.1 mole, 26 gms | C(CCCCCCCCCCCCCCC)(=O)Cl | C16H31ClO
product | 2-Benzoyloxyethyl palmitate | C(CCCCCCCCCCCCCCC)(=O)OCCOC(C1=CC=CC=C1)=O | C25H40O4
